US08114315B2
The present invention provides a polymer applied to solar cell and its fabrication method thereof. The 3,6-dibromophenanthrene-9,10-dione is prepared by a suitable method firstly. In an embodiment, N-bromosuccinimide (NBS) is dropped into a solution composed of 9,10-dihydrophenanthrene, tetrahydrofuran (THF), and acetic acid gradually, and agitate the mixture for 20 minutes. Add the saturated NaHCO3, and use water to rinse the solution. Use ethyl acetate to extract the solution. Use MgSO4 to dry the organic layer, and concentrate it to obtain 3,6-dibromo-9,10-dihydrophenanthrene. Then dissolve 3,6-dibromo-9,10-dihydrophenanthrene and chromic trioxide in acetic anhydride, and react at room temperature for several hours. Pour the solution into 1N HCl solution. Use ethyl acetate to extract the solution. Use MgSO4 to dry the organic layer, and concentrate it to obtain 3,6-dibromophenanthrene-9,10-dione.

reactant | 3,6-dibromo-9,10-dihydrophenanthrene | BrC=1C=CC=2CCC3=CC=C(C=C3C2C1)Br | C14H10Br2
reactant | HCl | 1N | Cl | ClH
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
product | 3,6-dibromophenanthrene-9,10-dione | BrC=1C=CC=2C(C(C3=CC=C(C=C3C2C1)Br)=O)=O | C14H6Br2O2
